US09164384B2
Synthesis of bis(3,5-dimethylphenyl)-(4-fluorophenyl)-sulfonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate (PAG Intermediate 36)
A mixture of 21 g of benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate synthesized according to the method of JP-A 2012-107151, the solution containing bis(3,5-dimethylphenyl)-(4-fluorophenyl)-sulfonium bromide obtained in Synthesis Example 1-47, 30 g of methylene chloride, and 50 g of deionized water was stirred for 30 minutes. The organic layer was separated, washed with water, and concentrated in vacuum. To the residue, diisopropyl ether was added for recrystallization. The resulting crystals were collected by filtration and dried in vacuum, obtaining 26 g of the target compound, bis(3,5-dimethylphenyl)-(4-fluorophenyl)sulfonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate as white crystals. Yield 92%.

reactant | benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate | 21 g | FC(C(C(F)(F)F)O)(S(=O)(=O)[O-])F.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | bis(3,5-dimethylphenyl)-(4-fluorophenyl)-sulfonium bromide | [Br-].CC=1C=C(C=C(C1)C)[S+](C1=CC=C(C=C1)F)C1=CC(=CC(=C1)C)C
reactant | methylene chloride | 30 g | C(Cl)Cl | CH2Cl2
solvent | water | 50 g | O | H2O
product | bis(3,5-dimethylphenyl)-(4-fluorophenyl)-sulfonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate | 26 g, Yield 92% | FC(C(C(F)(F)F)O)(S(=O)(=O)[O-])F.CC=1C=C(C=C(C1)C)[S+](C1=CC=C(C=C1)F)C1=CC(=CC(=C1)C)C | InChI=1S/C22H22FS.C3H3F5O4S/c1-15-9-16(2)12-21(11-15)24(20-7-5-19(23)6-8-20)22-13-17(3)10-18(4)14-22;4-2(5,6)1(9)3(7,8)13(10,11)12/h5-14H,1-4H3;1,9H,(H,10,11,12)/q+1;/p-1
